US08012976B2
To a stirred solution of 3-(3-oxo-8-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-9-yl)benzaldehyde (150 mg, 0.4 mmol) in dryness dichloromethane (10 mL) was added acetic acid followed by 1-methylpiperazine (121 mg, 1.2 mmol). After the addition, the mixture was stirred at room temperature for 1 h, Then the mixture was cooled to 0° C. Sodium borohydride (130 mg, 0.2 mmol) was added. After the addition, the mixture was stirred at this temperature for 3 hr. Dichloromethane was removed under reduced pressure. The residue was washed with ethyl acetate/methanol (10/1) and filtered. The filtrate was concentrated to give the crude product. The crude product was purified by pre-HPLC to give 9-(3-((4-methylpiperazin-1-yl)methyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one as white solid (22 mg, yield 12%). 1H-NMR (400 MHz, CD3OD) δ (ppm): 2.31 (s, 3H), 2.36-2.48 (m, 8H), 3.37-3.48 (dd, 2H), 4.30 (dd, 1H), 4.71 (dd, 1H), 7.01 (s, 1H), 7.05 (dd, 1H), 7.17-7.23 (m, 5H), 7.25-7.28 (m, 2H), 7.56 (dd, 1H), 7.61-7.65 (t, 1H); LC-MS (ESI) m/z: 452(M+1)+.

reactant | 3-(3-oxo-8-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-9-yl)benzaldehyde | 0.4 mmol, 150 mg | O=C1NN=C2C=3C(=CC=CC13)NC(C2C=2C=C(C=O)C=CC2)C2=CC=CC=C2 | C23H17N3O2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 1-methylpiperazine | 1.2 mmol, 121 mg | CN1CCNCC1 | C5H12N2
reactant | Sodium borohydride | 0.2 mmol, 130 mg | [BH4-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-(3-((4-methylpiperazin-1-yl)methyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 22 mg, yield 12% | CN1CCN(CC1)CC=1C=C(C=CC1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C28H29N5O
